US05403697
Tetrabromobisphenol A bis-tetrahydropyranyl ether
56.6 g of tetrabromobisphenol A are dissolved in 50 ml of THF. After addition of 17.5 g of dihydropyran and 0.25 g of Amberlyst, the mixture is refluxed for 3 hours, cooled, neutralized by addition of 5 g of potassium carbonate, stirred for a further hour, filtered and evaporated to dryness: oil. NMR: 7.27 ppm (arom.), 6.0 ppm (t, acetal), 1.57 ppm (methyl).

reactant | tetrabromobisphenol A | 56.6 g | BrC1=C(C(=C(C(=C1O)Br)Br)C(C)(C)C1=CC=C(C=C1)O)Br | C15H12Br4O2
reactant | dihydropyran | 17.5 g | O1CCCC=C1 | C5H8O
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Tetrabromobisphenol A bis-tetrahydropyranyl ether | O1C(CCCC1)OC1=C(C(=C(C(=C1Br)Br)C(C)(C)C1=CC=C(C=C1)OC1OCCCC1)Br)Br | C25H28Br4O4
